### PR TITLE
feat: prove the distributivity of forall over OmegaSequence.flatten

### PR DESCRIPTION
**Pull request by ctchou**
Prove a small result that is useful in a separate work.

### CODE REVIEW

File: Cslib/Foundations/Data/OmegaSequence/Flatten.lean [hunk 1]
```diff
@@ -159,6 +159,23 @@ theorem extract_flatten [Inhabited α] {ls : ωSequence (List α)} (h_ls : ∀ k
...
+    simp only [List.forall_iff_forall_mem, List.forall_mem_iff_getElem, length_extract]
+    intro i h_i
+    grind [get_extract (xs := ls.flatten) h_i]
+  · intro n
+    let k := segment ls.cumLen n
+    specialize h k
+    simp only [List.forall_iff_forall_mem, List.forall_mem_iff_getElem] at h
+    have : ls.cumLen k ≤ n := segment_lower_bound (cumLen_strictMono h_ls) cumLen_zero n
+    have : n < ls.cumLen (k + 1) := segment_upper_bound (cumLen_strictMono h_ls) cumLen_zero n
+    grind [flatten_def]
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Flatten.lean]: Some possible golfing:

```suggestion
  constructor
  · simp only [List.forall_iff_forall_mem, List.forall_mem_iff_getElem, ← extract_flatten h_ls]
    grind
  · have := segment_upper_bound (cumLen_strictMono h_ls)
    grind [List.forall_iff_forall_mem, flatten_def]
```

File: Cslib/Foundations/Data/OmegaSequence/Flatten.lean [hunk 2]
```diff
@@ -159,6 +159,23 @@ theorem extract_flatten [Inhabited α] {ls : ωSequence (List α)} (h_ls : ∀ k
   have h_take := flatten_take h_ls' 1
   grind [extract_eq_drop_take]
 
+/-- Distributivity of "forall" over `flatten`. -/
+theorem forall_flatten_iff [Inhabited α] {ls : ωSequence (List α)} (h_ls : ∀ k, (ls k).length > 0)
+    (p : α → Prop) : (∀ n, p (ls.flatten n)) ↔ ∀ k, (ls k).Forall p := by
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Flatten.lean:164]: Looking at `List.Forall` on Loogle, I only see ten results. Is it maybe preferred to just write

```suggestion
    (p : α → Prop) : (∀ n, p (ls.flatten n)) ↔ ∀ k, ∀ a ∈ ls k, p a := by
```
since it doesn't seem to matter for these proofs? (If you do this, make sure to also remove the redundant, `simp`/`grind` paramaters)

**Review by chenson2018 — APPROVED** [review]
Deferring to your judgement on the couple of reviews I left.

File: Cslib/Foundations/Data/OmegaSequence/Flatten.lean (hunk 1 above)
Comment (ctchou) [reply Cslib/Foundations/Data/OmegaSequence/Flatten.lean]: Amazing!  How do you always manage to find a shorter proof?

Fixed.

File: Cslib/Foundations/Data/OmegaSequence/Flatten.lean (hunk 2 above)
Comment (ctchou) [reply Cslib/Foundations/Data/OmegaSequence/Flatten.lean:164]: Let's keep it as it is.  One can use the following equivalence to easily move between them:
https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/List/Basic.html#List.forall_iff_forall_mem

File: Cslib/Foundations/Data/OmegaSequence/Flatten.lean (hunk 1 above)
Comment (fmontesi) [reply Cslib/Foundations/Data/OmegaSequence/Flatten.lean]: AI should be trained on @chenson2018's suggestions for improving proofs.
